US04873255
5-[4-(2,5,6,7,8-Pentamethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione
Following a procedure similar to that described in Example 1, but using 361 mg of ethyl 2-chloro-3-[4-(2,5,6,7,8-pentamethylchroman-2-ylmethoxy)phenyl]propionate (prepared as described in Preparation 33), 309 mg of thiourea, 3 ml of sulfolane, 10 ml of ethylene glycol monomethyl ether and 5 ml of 3N aqueous hydrochloric acid, 290 mg of the title compound were obtained as a white powder, softening at 62°-64° C.

reactant | ethyl 2-chloro-3-[4-(2,5,6,7,8-pentamethylchroman-2-ylmethoxy)phenyl]propionate | 361 mg | ClC(C(=O)OCC)CC1=CC=C(C=C1)OCC1(OC2=C(C(=C(C(=C2CC1)C)C)C)C)C | C26H33ClO4
reactant | thiourea | 309 mg | NC(=S)N | CH4N2S
reactant | sulfolane | 3 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 3N, 5 ml | Cl | ClH
solvent | ethylene glycol monomethyl ether | 10 ml | COCCO | C3H8O2
product | 5-[4-(2,5,6,7,8-Pentamethylchroman-2-ylmethoxy)benzyl]thiazolidine-2,4-dione | 290 mg | CC1(OC2=C(C(=C(C(=C2CC1)C)C)C)C)COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1 | C25H29NO4S
